US05627203
Step A: (Z)-3-Methyl-8-[(2-bromo-ethoxy)imino]thieno[2,3-d]pyrrolo[1,2-a]pyrrole
Add 5 g of 2-aminoxy-1-bromoethane hydrobromide, 1.5 mol of glacial acetic acid and 1.6 ml of pyridine in succession to a suspension of 1.43 g of 3-methyl-8H-thieno[2,3-d]pyrrolo[1,2-a]pyrrol-2-one (Preparation 29) in 70 ml of ethanol. The reaction mixture is heated at reflux for 3 hours, then the ethanol is removed under reduced pressure and the residue is extracted with 100 ml of diethyl ether. After washing with water, drying, concentrating to dryness and working up again in a diethyl ether/petroleum ether mixture, 1:1, the title compound is obtained in the form of a powder.

reactant | 2-aminoxy-1-bromoethane hydrobromide | 5 g | Br.O(N)CCBr
reactant | acetic acid | 1.5 mol | C(C)(=O)O | C2H4O2
reactant | pyridine | 1.6 ml | N1=CC=CC=C1 | C5H5N
reactant | 3-methyl-8H-thieno[2,3-d]pyrrolo[1,2-a]pyrrol-2-one | 1.43 g | CC1C(SC=2CC=3N(C21)C=CC3)=O | C10H9NOS
solvent | ethanol | 70 ml | C(C)O | C2H6O
product | (Z)-3-Methyl-8-[(2-bromo-ethoxy)imino]thieno[2,3-d]pyrrolo[1,2-a]pyrrole | Yield: 23% | CC1=CSC=2\C(\C=3N(C21)C=CC3)=N/OCCBr | C12H11BrN2OS
